US05144069
A mixture of dimethylaminopropylamine, H2NC3H6N(CH3)2 (12.2 g, 0.12 mole), triethylamine, (C2H5)3N (8.1 g, 0.08 mole) and toluene (60 g) was first prepared at ambient temperature and about atmospheric pressure in an inert atmosphere of nitrogen. To this mixture was added perfluorohexanesulfonyl fluoride, C6F13SO2F (41.0 g, 0.10 mole). The total mixture was then heated in a stainless steel reaction vessel at 90° C. for a period of about 3 hours forming a homogeneous reactant solution. During this period the aforementioned Reaction (a) takes place to produce intermediate N-[3-(N',N'-dimethylamino)propyl]perfluorohexane sulfonamide, C6F13SO2N(H)C3H6N(CH3)2.

reactant | dimethylaminopropylamine | CN(C)CCCN | C5H14N2
reactant | H2NC3H6N(CH3)2 | 0.12 mole, 12.2 g | NCCCN(C)C | C5H14N2
reactant | triethylamine | C(C)N(CC)CC | C6H15N
reactant | (C2H5)3N | 0.08 mole, 8.1 g | N(CC)(CC)CC | C6H15N
reactant | perfluorohexanesulfonyl fluoride | FC(C(C(C(C(C(F)(F)F)(F)F)(F)F)(F)F)(F)F)(S(=O)(=O)F)F | C6F14O2S
reactant | C6F13SO2F | 0.10 mole, 41.0 g | C(F)(F)(C(F)(F)C(F)(F)C(F)(F)C(F)(F)C(F)(F)F)S(=O)(=O)F | C6F14O2S
solvent | toluene | 60 g | C1(=CC=CC=C1)C | C7H8
product | C6F13SO2N(H)C3H6N(CH3)2 | C(F)(F)(C(F)(F)C(F)(F)C(F)(F)C(F)(F)C(F)(F)F)S(=O)(=O)NCCCN(C)C | C11H13F13N2O2S
